US03937716
Into a 500 ml., three-neck flask equipped with a mechanical stirrer, thermometer attached to a thermowatch, temperature controller and a condenser with a drying tube, is charged 171g. (1 mole) of 3-glycidyl-2-isopropyloxazolidine, 71.5g (1.1 mole) sodium azide and 250 cc of dioxane. The mixture is stirred and heated at 80°C for 6-8 hours and the solvent is then removed in vacuo to afford 3-(3-azido-2-hydroxypropyl)-2-isopropyl-1,3-oxazolidine.

reactant | 3-glycidyl-2-isopropyloxazolidine | 1 mole | C(C1CO1)N1C(OCC1)C(C)C | C9H17NO2
reactant | sodium azide | 1.1 mole, 71.5g | [N-]=[N+]=[N-].[Na+]
solvent | dioxane | 250 cc | O1CCOCC1 | C4H8O2
product | 3-(3-azido-2-hydroxypropyl)-2-isopropyl-1,3-oxazolidine | N(=[N+]=[N-])CC(CN1C(OCC1)C(C)C)O | C9H18N4O2
